US06770778B2
This material was then coupled directly with 2-(aminooxy)ethanol as follows: The crude 3,4-difluoro-2-[[4-(methoxycarbonyl)-phenyl]amino]benzoic acid was dissolved in dry THF (20 mL) to which was added CDI (1.63 g, 10.0 mmol). This reaction mixture was stirred at room temperature for 2 hours, then a solution of 2-(aminooxy)ethanol (1.55 g, 20.1 mmol) in dry THF (10 mL) was added and the reaction allowed to stir at room temperature overnight. The reaction solvent was removed under reduced pressure and the resulting oil dissolved in EtOAc (200 mL) which was washed sequentially with 1 M HCl (100 mL), water (100 mL), and brine (100 mL). The solution was dried (Na2SO4), the solvent removed under reduced pressure and the crude oil purified by chromatography on flash silica (10% EtOAc as eluant) to give methyl 4-[[2,3-difluoro-6-[[(2-hydroxyethoxy)amino]carbonyl]phenyl]amino]benzoate (0.889 g, 48%) as a white solid; mp (EtOAc/hexanes) 158-160° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.64 (br s, 1 H), 8.76 (br s, 1 H), 7.78 (d, J=8.8 Hz, 2 H), 7.41-7.27 (m, 2 H), 6.80 (dd, J=8.8, 1.8 Hz, 2 H), 4.67 (br s, 1 H), 3.78 (s, 3 H), 3.76 (t, J=4.8 Hz, 2 H), 3.50 (t, J=4.6 Hz, 2 H). Anal Calcd for C17H16F2N2O5: C, 55.7; H, 4.4; N, 7.7. Found C, 55.7; H, 4.4; N, 7.6.

reactant | 2-(aminooxy)ethanol | NOCCO | C2H7NO2
reactant | 3,4-difluoro-2-[[4-(methoxycarbonyl)-phenyl]amino]benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=CC=C(C=C1)C(=O)OC | C15H11F2NO4
reactant | CDI | 10.0 mmol, 1.63 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(aminooxy)ethanol | 20.1 mmol, 1.55 g | NOCCO | C2H7NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 4-[[2,3-difluoro-6-[[(2-hydroxyethoxy)amino]carbonyl]phenyl]amino]benzoate | 0.889 g, 48% | FC1=C(C(=CC=C1F)C(=O)NOCCO)NC1=CC=C(C(=O)OC)C=C1 | C17H16F2N2O5
